US05538988
A mixture of 5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine (6.0 g, 32.8 mmol), prepared as in Example 8, and ethyl glyoxylate (4.6 g, 36.0 mmol) in 300 mL of ethanol was hydrogenated over 10% palladium on carbon (0.75 g) for 10 hours. The mixture was filtered and concentrated by evaporation. Purification of the residue by column chromatography on silica gel (elution: 30% ethyl acetate/hexane) gave ethyl [(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amino]acetate (7.5 g, 27.9 mmol) as an oil.

reactant | 5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine | 32.8 mmol, 6.0 g | FC1=C2CCC(CC2=CC(=C1)F)N | C10H11F2N
reactant | ethyl glyoxylate | 36.0 mmol, 4.6 g | C(C=O)(=O)OCC | C4H6O3
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
product | ethyl [(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amino]acetate | 27.9 mmol, 7.5 g | FC1=C2CCC(CC2=CC(=C1)F)NCC(=O)OCC | C14H17F2NO2
